US08809568B2
The (trimethylsilylethynyl)diisopropylbromosilane intermediate was transferred to an oven-dried flask, dissolved in anhydrous THF, treated with 1.2 equivalents of allylmagnesium chloride (2.0 M in THF) dropwise, and heated to 45° C. for 12 hrs. The reaction was quenched by the slow addition of ice water, then dilute sulfuric acid to dissolve magnesium salts, followed by the addition of pentane. The organic layer was separated, and the aqueous layer was extracted with pentane one additional time. Organic layers were combined, washed with water and brine, dried over magnesium sulfate, filtered, and concentrated under rotary evaporation. Removal of the trimethylsilyl substituent is effected by treatment with 6-8 drops of 15% NaOH in 1:1 THF:MeOH, followed by stirring for 1-2 hours. Analysis by GC-MS was helpful to ascertain completion of the deprotection, since thin layer chromatography (hexanes, visualization by potassium permanganate stain) revealed no appreciable difference between the trimethylsilyl-protected and deprotected acetylene. The product was isolated by extraction into hexanes (2×50 mL). The organic layer was washed with 10% HCl (10 mL) and water (2×10 mL), then dried over magnesium sulfate, filtered, and concentrated under rotary evaporation to yield 11.3 g of crude (allyldiisopropylsilyl)acetylene.

reactant | (trimethylsilylethynyl)diisopropylbromosilane | C[Si](C)(C)C#C[Si](Br)(C(C)C)C(C)C | C11H23BrSi2
reactant | allylmagnesium chloride | 2.0 M, 1.2 equivalents | C(C=C)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | (allyldiisopropylsilyl)acetylene | 11.3 g | C(C=C)[Si](C(C)C)(C(C)C)C#C | C11H20Si
